US04916145
In an inert atmosphere. 0.068 g of bis(triphenylphosphine)palladium dichloride and 0.013 g of cuprous iodide was added with stirring to a deoxygenated solution of 1 g of 8-bromoisoquinoline, 0.56 mL of propargyl alcohol and 2 mL of triethylamine in 25 mL of dichloromethane. The mixture was stirred at room temperature for 2 hours and then at reflux for 20 hours. The cooled reaction was filtered and the filtrate was concentrated in vacuo. The residual oil was purified by HPLC (ethyl acetate-toluene; 2:3) to yield 0.4 g of -(8-isoquinolinyl)-2-propyne-1-ol, mp 138°-139° C.

reactant | 8-bromoisoquinoline | 1 g | BrC=1C=CC=C2C=CN=CC12 | C9H6BrN
reactant | propargyl alcohol | 0.56 mL | C(C#C)O | C3H4O
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.068 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (8-isoquinolinyl)-2-propyne-1-ol | C1=NC=CC2=CC=CC(=C12)C(C#C)O | C12H9NO
